US05834506
6-[2-(3-Benzyloxy-phenyl)-ethyl]-6-cyclopentyl-4-hydroxy-5,6-dihydro-pyran-2-one
The title compound was prepared as described in General Method 6 using 3-(3-benzyloxy-phenyl)-1-cyclopentyl-propan-1-one (3.3 g, 11.3 mmol) from Example YYYY, 2.45 mL (22.7 mmcl) of methyl acetoacetate, 0.93 g (23.2 mmol) of 60% NaH dispersion in mineral oil, 14.5 mL (1.6M, 23.2 mmol) of n-butyllithium and 40 mL of THF. The reaction mixture was quenched with 5 mL HOAc and the mixture was worked up in the normal manner.

reactant | 3-(3-benzyloxy-phenyl)-1-cyclopentyl-propan-1-one | 11.3 mmol, 3.3 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCC(=O)C1CCCC1 | C21H24O2
reactant | methyl acetoacetate | 2.45 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 23.2 mmol, 0.93 g | [H-].[Na+]
reactant | n-butyllithium | 23.2 mmol, 1.6M, 14.5 mL | C(CCC)[Li]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 6-[2-(3-Benzyloxy-phenyl)-ethyl]-6-cyclopentyl-4-hydroxy-5,6-dihydro-pyran-2-one | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCC1(CC(=CC(O1)=O)O)C1CCCC1 | C25H28O4
